US07691863B2
b) 5-Bromo-3-cyclopentylmethoxy-2-pyrrolidin-1-yl-pyrazine
To a solution of 0.544 g (0.0020 mol) 5-bromo-3-cyclopentylmethoxy-pyrazin-2-ylamine in 10 mL dimethylformamide was added 0.349 g (0.0080 mol) sodium hydride 55% in oil and the mixture was stirred at room temperature for 20 min. To the resulting suspension was added 0.345 mL (0.0030 mol) 1-bromo-2-chlorobutane and the mixture was stirred at room temperature for 2 h. The reaction mixture was partitioned between 10% aqueous citric acid and ethyl acetate. The phases were separated and the organic phase was washed with water and 10% aqueous sodium bicarbonate, dried over sodium sulfate, evaporated and the residue was purified by chromatography on silica gel with heptane:ethyl acetate=9:1 to yield 0.579 g (0.0018 mol) of the title compound as yellowish crystals melting at 54-55° C.

reactant | 5-bromo-3-cyclopentylmethoxy-pyrazin-2-ylamine | 0.0020 mol, 0.544 g | BrC=1N=C(C(=NC1)N)OCC1CCCC1 | C10H14BrN3O
reactant | sodium hydride | 0.0080 mol, 0.349 g | [H-].[Na+]
reactant | 1-bromo-2-chlorobutane | 0.0030 mol, 0.345 mL | BrCC(CC)Cl | C4H8BrCl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-3-cyclopentylmethoxy-2-pyrrolidin-1-yl-pyrazine | 0.0018 mol, 0.579 g | BrC=1N=C(C(=NC1)N1CCCC1)OCC1CCCC1 | C14H20BrN3O
